US05888972
To a solution of N-cyclohexylglycine (0.763 g) in 1N aq. NaOH (4.86 ml) and dioxane (2 ml) was added a solution of Boc2O (1.94 g) in dioxane (5 ml). The mixture was stirred at room temperature for overnight. Then 3-(N,N-dimethylamino)propylamine (0.46 g) was added to the reaction mixture. After stirring for 20 minutes, the mixture was concentrated under reduced pressure. The residue was dissolved in AcOEt (50 ml) and washed with 3.6% aq. HCl, water, and brine successively. The organic layer was dried over MgSO4 and evaporated in vacuo to give N-tert-butoxycarbonyl-N-cyclohexylglycine (663.8 mg) as a white crystal.

reactant | N-cyclohexylglycine | 0.763 g | C1(CCCCC1)NCC(=O)O | C8H15NO2
reactant | Boc2O | 1.94 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-(N,N-dimethylamino)propylamine | 0.46 g | CN(C)CCCN | C5H14N2
solvent | NaOH | 1N, 4.86 ml | [OH-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-tert-butoxycarbonyl-N-cyclohexylglycine | 663.8 mg | C(C)(C)(C)OC(=O)N(CC(=O)O)C1CCCCC1 | C13H23NO4
